.subckt charge_pump UP Down CP
M7 UP_bar UP 0 0 nfet l=180n w=180n
M8 DOWN_bar Down 0 0 nfet l=180n w=180n
M12 VDD Down DOWN_bar VDD pfet l=180n w=540n
M14 VDD UP UP_bar VDD pfet l=180n w=540n
M15 UP_bar 0 N001 N001 nfet l=180n w=180n
M16 DOWN_bar 0 N004 N004 nfet l=180n w=180n
M17 N003 N004 N003 N003 nfet l=180n w=180n
M18 0 VDD VDD 0 nfet l=180n w=180n
M19 CP VDD N003 N003 nfet l=180n w=180n
M20 N003 Down 0 0 nfet l=180n w=15u
M21 N001 VDD UP_bar N001 pfet l=180n w=540n
M22 N004 VDD DOWN_bar N004 pfet l=180n w=540n
M23 N002 UP N002 N002 pfet l=180n w=540n
M24 0 0 VDD VDD pfet l=180n w=540n
M25 N002 0 CP N002 pfet l=180n w=540n
M26 VDD N001 N002 VDD pfet l=180n w=45u
V1 VDD 0 1.8
.ends charge_pump
