.subckt cs_inv In Out Vp Vn
M1 N003 Vn 0 0 nfet l=180n w=360n
M4 N002 Vp N001 VDD pfet l=180n w=720n
M3 Out In N002 VDD pfet l=180n w=720n
M2 Out In N003 0 nfet l=180n w=360n
C1 Out 0 1f
V1 N001 0 1.8
.ends cs_inv
