.subckt freq_div_2 clock Q
M1 N004 N002 0 0 nfet l=180n w=180n
VDD VDD 0 1.8
M2 VDD N002 N004 VDD pfet l=180n w=540n
M5 N003 N004 0 0 nfet l=180n w=180n
M6 VDD N004 N003 VDD pfet l=180n w=540n
M7 D clock_b N002 0 nfet l=180n w=180n
M3 N002 clock D VDD pfet l=180n w=540n
M4 N002 clock N003 0 nfet l=180n w=180n
M8 N003 clock_b N002 VDD pfet l=180n w=540n
M9 Q N001 0 0 nfet l=180n w=180n
M10 VDD N001 Q VDD pfet l=180n w=540n
M11 D Q 0 0 nfet l=180n w=180n
M12 VDD Q D VDD pfet l=180n w=540n
M13 N004 clock N001 0 nfet l=180n w=180n
M14 N001 clock_b N004 VDD pfet l=180n w=540n
M15 N001 clock_b D 0 nfet l=180n w=180n
M16 D clock N001 VDD pfet l=180n w=540n
M17 clock_b clock 0 0 nfet l=180n w=180n
M18 VDD clock clock_b VDD pfet l=180n w=540n
.ends freq_div_2
