****************************
*2 input nand
***************************
.subckt nand101 in1 in2 out VDD GND
M1 out in1 N001 N001 nfet l=180n w=180n
M2 VDD in2 out VDD pfet l=180n w=360n
M3 VDD in1 out VDD pfet l=180n w=360n
M4 N001 in2 GND GND nfet l=180n w=360n
.ends nand101
