.subckt nand301 in1 in2 in3 out VDD GND
M1 out in1 N001 N001 nfet l=180n w=540n
M2 VDD in2 out VDD pfet l=180n w=360n
M3 VDD in1 out VDD pfet l=180n w=360n
M4 N001 in2 N002 N002 nfet l=180n w=540n
M5 N002 in3 GND GND nfet l=180n w=540n
M6 VDD in3 out VDD pfet l=180n w=360n
.ends nand301
